US09340527B2
A mixture of ethyl 1-((6-(cis-4-ethylcyclohexyloxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate (1.6 g, 0.004 mol, 1.0 eq) and NaOH (0.48 g, 0.012 mol, 3.0 eq) in ethanol (10 mL) and water (2 mL) was refluxed for 2 h. After the solvent was removed in vacuo, the residue was dissolved in water (20 mL) and acidified with 1 N HCl to pH=7. The mixture was extracted with dichloromethane (50 mL*3) and the combined organic layers were washed with brine (30 mL), dried over sodium sulfate, concentrated and recrystallized in ethyl acetate to give 1-((6-(cis-4-ethylcyclohexyloxy)naphthalen-2-yl)methyl)piperidine-4-carboxylic acid (1.1 g, yield: 71%) as a white solid. ESI-MS (M+H)+: 396.3. HPLC: 100%. 1H NMR (400 MHz, DMSO-d6) δ: 7.77 (d, J=9.2 Hz, 1H), 7.72 (d, J=8.4 Hz, 1H) 7.63 (s, 1H), 7.39 (dd, J=8.4, 1.2 Hz, 1H), 7.29 (d, J=2.0 Hz, 1H), 7.15 (dd, J=8.8, 2.4 Hz, 1H), 4.71-4.69 (m, 1H), 3.54 (s, 2H), 2.78-2.74 (m, 2H), 2.16-2.15 (m, 1H), 2.01-1.93 (m, 4H), 1.77-1.75 (m, 2H), 1.63-1.50 (m, 6H), 1.34-1.24 (m, 5H), 0.87 (t, J=7.2 Hz, 3H).

reactant | ethyl 1-((6-(cis-4-ethylcyclohexyloxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate | 0.004 mol, 1.6 g, 1.0 eq | C(C)[C@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)C(=O)OCC | C27H37NO3
reactant | NaOH | 0.012 mol, 0.48 g, 3.0 eq | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
product | 1-((6-(cis-4-ethylcyclohexyloxy)naphthalen-2-yl)methyl)piperidine-4-carboxylic acid | 1.1 g, yield: 71% | C(C)[C@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)C(=O)O | C25H33NO3
